reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@:6]1([H:14])[C:5]([H:12])([H:13])[O:4]/[C:2](=[N:3]/[H:11])[O:7]1)([H:8])([H:9])[H:10],98.18054161031759
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5](=[O:6])[H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]1([H:8])([H:9])[C:2]([H:10])([H:11])[C:3]1([C@@:5]([C:4]([H:13])([H:14])[H:15])([O:6][H:7])[H:16])[H:12],90.04833735995821
[C:1]([C@@:2]1([H:11])[C@@:3]2([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[C:6]([H:17])([H:18])[C@@:7]12[H:19])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3](=[C:4]([H:13])[H:14])[H:12])([C:7]([C:6](=[C:5]([H:15])[H:16])[H:18])([H:17])[H:19])[H:11])([H:8])([H:9])[H:10],94.73402063437901
[C:1]([O:2]/[C:3](=[N:4]/[C:5]([H:10])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8]>>[C:1]([O:2][C:3]([N:4]=[C:5]([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],82.7594628076458
[C:1]1([H:8])([H:10])[O:2][C:3]([H:11])([H:12])[C:4]1([O:5][H:9])[O:6][C:7]([H:13])([H:14])[H:15]>>[C:1]([O:2][C:3]([C:4](=[O:5])[O:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],59.0457579377176
[O:1]([C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[H:12])([H:7])[H:8])[H:6]>>[O:1]([C:2]([C+:3]([N:5]([C-:4]([H:10])[H:11])[H:12])[H:9])([H:7])[H:8])[H:6],53.413796465418905
[C:1]([N:2]1[C:3]([H:10])([H:12])[O:6][C:5]([H:11])([H:15])[C:4]1([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[O:6])[H:15])([H:13])[H:14])([H:7])([H:8])[H:9],85.07512188792728
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5](=[C:6]=[C:7]([H:16])[H:17])[H:15])[H:14])([H:8])([H:9])[H:10],77.6877554789223
[O:1]([C:2]([C:3]([C:4](=[O:5])[H:11])([H:9])[H:10])([H:7])[H:8])[H:6]>>[O:1]([C:2](/[C:3](=[C:4](/[O:5][H:9])[H:11])[H:10])([H:7])[H:8])[H:6],66.1022280927947
[C:1]([C@@:2]([C:3][H:13])([C@@:7]1([H:17])[C@@:4]([O:5][H:14])([H:12])[C:6]1([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],8.121103838449088
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]#[N:7])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C@:3]([O:4][H:14])([H:13])[C:5]([H:15])([H:16])[C:6][N:7]1[H:12])([H:8])([H:9])[H:10],97.3457321340102
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([N+:6]#[C-:5])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],52.64208537109821
[C:1]([O:2][C:3]([C:4]([O:5][H:14])=[C:6]([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10].[O:7]([H:13])[H:17]>>[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],68.3494486851459
[C:1]([N:2](/[C:3]([O:4][H:11])=[N:5]\[C:6]([H:12])([H:13])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[H:11])[H:10])([H:7])([H:8])[H:9],25.108916486728702
[C:1](=[C:2]([C:5]#[N:6])[H:10])([H:7])[H:8].[C:3](=[O:4])([H:11])[H:12].[H:9][H:13]>>[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],40.7821217185884
[C:1]([C@@:2]([C:3]([C:4]([O:5][H:16])([H:14])[H:15])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]([O:5][H:16])([H:15])[N:7]([H:14])[C:6]1)([H:8])([H:9])[H:10],93.13520810167101
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]#[C:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:7])[H:10])([C:6](=[C:5]=[C:4]([H:14])[H:15])[H:16])([H:8])[H:9],98.8076134807918
[O:1]([C:2]([C:3]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]([O+:5]=[C-:4][C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8],114.87789372135201
[O:1]1[C@@:2]2([H:8])[C@:3]3([H:9])[C:4]([H:10])=[C:5]([H:11])[C@@:6]2([H:12])[C@:7]13[H:13]>>[O+:1]1=[C-:2][C@:3]2([H:9])[C:4]([H:8])([H:10])[C:5]([H:11])=[C:6]([H:12])[C@:7]12[H:13],83.9788994810331
[C:1]([C@:2]1([H:10])[C:4]([H:12])([H:13])/[C:5]1=[C:6](/[O:3][H:11])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],74.76460716117123
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1](=[C:2]=[C:7]([C:6](=[N:3][N:4]=[O:5])[H:9])[H:10])[H:8],104.43982306437701
[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:14].[C:2](=[O+:3][C:4]([O-:5])=[C:6]([O:7][H:15])[H:13])([H:11])[H:12],107.61747469334101
[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3](=[O:4])[H:12])([N:7]=[C:5]=[O:6])[H:11])([H:8])([H:9])[H:10].[H:13][H:14],105.242860334426
